US07585886B2
A 10 ml portion of a DMF solution of 500 mg of 5-oxo-1-phenylpyrrolidine-3-carboxylic acid was mixed with 935 mg of WSC hydrochloride, 396 mg of HOBt and 500 mg of(1R)-1-naphthylethylamine and stirred at room temperature for 3 days. After completion of the reaction, 100 ml of saturated sodium bicarbonate aqueous solution was added thereto, and the thus formed solid was collected by filtration to obtain 1.01 g of N-(1R)-1-(1-naphthyl)ethyl]-5-oxo-1-phenylpyrrolidine-3-carboxamide as a colorless solid. EP: 359.

reactant | 5-oxo-1-phenylpyrrolidine-3-carboxylic acid | 500 mg | O=C1CC(CN1C1=CC=CC=C1)C(=O)O | C11H11NO3
reactant | WSC hydrochloride | 935 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 396 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-oxo-1-phenylpyrrolidine-3-carboxamide | O=C1CC(CN1C1=CC=CC=C1)C(=O)N | C11H12N2O2
